US07666879B2
A. 2-Methyl-4-tert-butyl-pyridine
Cool a solution of methyl lithium in ether (200 mL, 1.6 M, 320.00 mmol) in an ice bath and add 4-tert-butyl-pyridine (20.28 g, 150.00 mmol) drop wise. Once the substrate is added, warm the reaction to ambient temperature for 3 hours. Concentrate the reaction to near dryness to remove the ether and then add anhydrous toluene (200 mL) and heat to reflux for 20-21 hours. Cool in an ice bath while slowly and cautiously adding ice to quench the reaction. Add water (200 mL) and then extract the aqueous with ethyl acetate (3×250 mL) and separate the layers. Pool, desiccate, filter and concentrate the organic extracts to an oil. Chromatograph the oil on silica using a gradient of 0→50% ethyl acetate hexanes over 25 minutes to yield the title compound (16.60 g, 111.23 mmol). MS(ESI), m/z 150 (M+1).

reactant | methyl lithium | C[Li]
reactant | ether | 320.00 mmol, 1.6 M, 200 mL | CCOCC | C4H10O
reactant | 4-tert-butyl-pyridine | 150.00 mmol, 20.28 g | C(C)(C)(C)C1=CC=NC=C1 | C9H13N
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 2-Methyl-4-tert-butyl-pyridine | 111.23 mmol, 16.60 g | CC1=NC=CC(=C1)C(C)(C)C | C10H15N
